US08026257B2
Tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To solution of Methyl Sulfoxide (0.197 ml, 2.77 mmol) in DCM (12 ml) at −78° C. was added oxalyl chloride (0.694 ml, 1.387 mmol) dropwise. The solution was stirred at −78° C. for 0.5 h. A solution of Tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (400 mg, 0.631 mmol) in DCM (12 ml) was then added dropwise. The slurry was stirred at −78° C. for 2 h before addition of N,N-Diisopropylethylamine (0.549 ml, 3.15 mmol) dropwise. The solution was slowly warmed up and stirred at room temperature for 3 h. It was then washed with iced 1M HCl and brine, dried over MgSO4, filtered and concentrated. The residual light yellow oil was purified by Biotage LC (35% EtOAc/Hexane) to afford title compound (286.3 mg, 0.453 mmol, 71.8% yield) as yellow foam solid. 1H-NMR (CDCl3, 500 MHz) δ 9.61 (s, 1H), 8.05, s, 1H), 7.60 (d, J=1.8 Hz, 1H), 7.33 (m, 2H), 7.04 (m, 2H), 7.02 (buried, 1H), 5.67 (m, 2H), 3.60 (app t, J=8.3 Hz, 2H), 3.45-3.85 (m, 3H), 3.45 (d, J=9.1 Hz, 1H), 2.18 (m, 2H), 1.95 (m, 2H), 1.75 (m, 1H), 1.43 (s, 9H), 0.91 (app t, J=8.2 Hz, 2H), −0.04 (s, 9H). LC/MS (HPLC method 3): tR=4.11 min, 632.3(MH)+.

reactant | Methyl Sulfoxide | 2.77 mmol, 0.197 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.387 mmol, 0.694 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-hydroxyethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.631 mmol, 400 mg | ClC1=CC2=CN(N=C2C(=C1)C(CO)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O5Si
reactant | N,N-Diisopropylethylamine | 3.15 mmol, 0.549 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | Tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.453 mmol, 286.3 mg, 71.8% yield | ClC1=CC2=CN(N=C2C(=C1)C(C=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H43ClFN3O5Si
